US07084250B2
2-Methyl-4-[pyridin-3-yl-(Z)-methylene]-4H-oxazol-5-one
Under nitrogen, acetone (40.0 l), followed by pyridine-3-carbaldehyde (20.0 kg, 186.9 mol), was added to N-acetylglycine (32.7 kg, 280.0 mol) and sodium acetate (15.3 kg, 186.9 mol). With stirring, acetic anhydride (40.0 l, 429.0 mol) was added. Within 30 min, the reaction mixture was heated to reflux temperature and then stirred under reflux for 1.5 h. This gave a thin reddish suspension. The suspension was cooled to 50° C., and methyl tert-butyl ether (80.0 l) was then added. Ice-water (<2° C., 200.0 l) was added as quickly as possible (<5 min), with stirring and cooling, and the mixture was then stirred at 5–10° C. for 1 h. The beige suspension was introduced into a centrifuge which had been inertized with nitrogen. The precipitate was centrifuged, washed with deionized water (80.0 l) and dried under reduced pressure at 40° C. Yield: 24.8 kg (131.9 mol, 70.6% of theory). M.p.: 173° C.; MS (DCl): m/z (%)=189 ([M+H+], 100); 1H-NMR (200 MHz, DMSO-d6): δ=2.40 (s, 3H), 7.28 (s, 1H), 7.53 (dd, 1H), 8.61 (d, 2H), 9.18 (brs, 1H); IR (KBr): ν=1799.9, 1777.4, 898.0 cm−1.

reactant | pyridine-3-carbaldehyde | 186.9 mol, 20.0 kg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | N-acetylglycine | 280.0 mol, 32.7 kg | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 186.9 mol, 15.3 kg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 429.0 mol, 40.0 l | C(C)(=O)OC(C)=O | C4H6O3
solvent | methyl tert-butyl ether | 80.0 l | C(C)(C)(C)OC | C5H12O
solvent | acetone | 40.0 l | CC(=O)C | C3H6O
product | 2-Methyl-4-[pyridin-3-yl-(Z)-methylene]-4H-oxazol-5-one | CC=1OC(/C(/N1)=C/C=1C=NC=CC1)=O | C10H8N2O2
